### PR TITLE
feat(PMF): add lintegral formulas for PMF 

### PR DESCRIPTION
**Pull request by Citronhat**
This PR introduces two lemmas describing the `lintegral` of a function with respect to the measure induced by a probability mass function:

- `PMF.lintegral_eq_tsum`
- `PMF.lintegral_eq_sum`

These are the `ℝ≥0∞` analogues of the existing Bochner `integral` formulas `integral_eq_tsum` and `integral_eq_sum`.  They could be useful for reasoning about expectations and integrability.

In addition, the proof of `integral_eq_sum` is simplified by deriving it directly from `integral_eq_tsum` using `tsum_fintype`.

### CODE REVIEW

File: Mathlib/Probability/ProbabilityMassFunction/Integrals.lean [hunk 1]
```diff
@@ -27,6 +27,19 @@ open MeasureTheory NNReal ENNReal TopologicalSpace
...
 
 variable {α : Type*} [MeasurableSpace α] [MeasurableSingletonClass α]
+
+theorem lintegral_eq_tsum (p : PMF α) (f : α → ℝ≥0∞) :
+    ∫⁻ a, f a ∂(p.toMeasure) = ∑' a, p a * f a := calc
+  _ = ∫⁻ (a : α) in p.support, f a ∂p.toMeasure := by rw [p.restrict_toMeasure_support]
+  _ = ∑' (a : p.support), f a * p.toMeasure {↑a} := lintegral_countable _ p.support_countable
+  _ = ∑' (a : p.support), p a * f a := by
+    simp_rw [p.toMeasure_apply_singleton _ (measurableSet_singleton _), mul_comm]
+  _ = ∑' a, p a * f a := tsum_subtype_eq_of_support_subset (Function.support_mul_subset_left p f)
```
Comment (DavidLedvinka) [inline Mathlib/Probability/ProbabilityMassFunction/Integrals.lean:37]: I think with the following useful lemma 

```
theorem PMF.toMeasure_eq_sum_smul_dirac {α : Type*} [MeasurableSpace α] (p : PMF α) : 
    p.toMeasure = sum (fun a ↦ p a • .dirac a) := by
  ext s hs
  simp (disch := measurability) [PMF.toMeasure_apply, sum_apply, 
    dirac_apply', ← Set.indicator_mul_right]
```

the proof of this theorem and the next one become `simp [PMF.toMeasure_eq_sum_smul_dirac]`.
Feel free to add this to an appropriate file and use it.
